US07202364B2
A mixture of 2-chloro-4-bromo-5-methyl-3,6-difluoroaniline (7.0 g, 27 mmol) cyclopropylboronic acid (3.5 g, 41 mmol), palladium(II) acetate (0.67 g, 3.0 mmol), potassium phosphate (17.5 g, 82 mmol) and tricyclohexylphosphine (0.83 g, 3.0 mmol) is dissolved in 100 mL of 4:1 toluene/water. The mixture is degassed by repeated alternating applications of vacuum and positive nitrogen pressure (10×). The mixture is heated to 95° C. for 2 days and then cooled to room temperature. Most of the toluene is removed by rotary evaporator and the residual mixture is partitioned between Et2O (250 mL) and water (250 mL). The organic phase is washed with brine (3×250 mL), dried (MgSO4) and concentrated by rotary evaporator. The crude product is purified using flash chromatography (10% EtOAc/hexanes) to give 2-chloro-4-cyclopropyl-5-methyl-3,6-difluoroaniline as a tan oil.

reactant | 2-chloro-4-bromo-5-methyl-3,6-difluoroaniline | 27 mmol, 7.0 g | ClC1=C(N)C(=C(C(=C1F)Br)C)F | C7H5BrClF2N
reactant | potassium phosphate | 82 mmol, 17.5 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | tricyclohexylphosphine | 3.0 mmol, 0.83 g | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
solvent | toluene water | 100 mL | C1(=CC=CC=C1)C.O
catalyst | palladium(II) acetate | 3.0 mmol, 0.67 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-chloro-4-cyclopropyl-5-methyl-3,6-difluoroaniline | ClC1=C(N)C(=C(C(=C1F)C1CC1)C)F | C10H10ClF2N
